US04772614
7-Chloro-6-fluoro-1-methyl-4-oxo-1,4-dihydroquinoline-3-sulphonyl chloride (8.73 g) was added to a stirred solution of dimethylamine in ethanol (33%; 170 ml) at ambient temperature. The mixture was stirred for 70 hours and then evaporated to dryness. The residue was stirred with water (50 ml) for 30 minutes. The solid product was collected, dried and crystallised from industrial methylated spirit to give the novel compound 7-chloro-6-fluoro-1,N,N-trimethyl-4-oxo-1,4-dihydroquinoline-3-sulphonamide, m.p. 219°-221° (dec).

reactant | 7-Chloro-6-fluoro-1-methyl-4-oxo-1,4-dihydroquinoline-3-sulphonyl chloride | 8.73 g | ClC1=C(C=C2C(C(=CN(C2=C1)C)S(=O)(=O)Cl)=O)F | C10H6Cl2FNO3S
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | 170 ml | C(C)O | C2H6O
product | 7-chloro-6-fluoro-1,N,N-trimethyl-4-oxo-1,4-dihydroquinoline-3-sulphonamide | ClC1=C(C=C2C(C(=CN(C2=C1)C)S(=O)(=O)N(C)C)=O)F | C12H12ClFN2O3S
